US07288544B2
3) Synthesis of 4-(3-chlorophenyl)-5-(3-(4-(5H-dibenzo[a,d] cyclohepten-5-ylidene) piperidine-1-yl) propoxy) carbonyl-2,6-dimethylnicotinic acid:
5 ml of acetone was added to 132 mg (0.21 mmol) of 4-(3-chlorophenyl)-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylic acid mono (3-(4-(5H-dibenzo[a,d] cyclohepten-5-ylidene) piperidine-1-yl) propan-1-yl) ester. 233 mg (0.43 mmol) of cerium ammonium nitrate suspended in 5 ml of water was added and stirred at room temperature for 2 hours. After acetone was evaporated under reduced pressure, ethyl acetate was added and precipitates were taken by the filtration and dried under reduced pressure to obtain the title compound.

reactant | acetone | 5 ml | CC(=O)C | C3H6O
reactant | 4-(3-chlorophenyl)-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylic acid mono (3-(4-(5H-dibenzo[a,d] cyclohepten-5-ylidene) piperidine-1-yl) propan-1-yl) ester | 0.21 mmol, 132 mg | C1=CC=CC=2C(C3=C(C=CC21)C=CC=C3)=C3CCN(CC3)CCCOC(=O)C3=C(NC(=C(C3C3=CC(=CC=C3)Cl)C(=O)O)C)C | C38H37ClN2O4
reactant | cerium ammonium nitrate | 0.43 mmol, 233 mg | [N+](=O)([O-])[O-].[NH4+].[Ce]
solvent | water | 5 ml | O | H2O
product | 4-(3-chlorophenyl)-5-(3-(4-(5H-dibenzo[a,d] cyclohepten-5-ylidene) piperidine-1-yl) propoxy) carbonyl-2,6-dimethylnicotinic acid | ClC=1C=C(C=CC1)C1=C(C(=NC(=C1C(=O)O)C)C)C(=O)OCCCN1CCC(CC1)=C1C2=C(C=CC3=C1C=CC=C3)C=CC=C2 | C38H35ClN2O4
